US07601870B2
(4-Amino-3,5-dimethyl-phenyl)-(4-trifluoromethyl-benzyl)-carbamic acid tert-butyl ester
To (3,5-Dimethyl-4-nitro-phenyl)-(4-trifluoromethyl-benzyl)-carbamic acid tert-butyl ester (9.5 g) in ethanol (150 mL) was added zinc dust (22 g) and acetic acid (13 mL). The reaction mixture was stirred 3 hours and then filtered. The solution was concentrated in vacuo, redissolved in ethyl acetate (100 mL) and extracted with water (2×50 mL). The organic phase was dried (MgSO4), filtered and concentrated in vacuo to give the title compound as an off white compound. Yield. 6.5 g (78%). LC-MS (m/z) 395 (MH+); tR=3.06, (UV, ELSD) 89%, 96%. 1H NMR (500 MHz, CDCl3): 1.40 (s, 9H), 2.10 (s, 6H), 3.50 (broad, 2H), 4.75 (s, 2H), 6.70 (s, 2H), 7.35 (d, 2H), 7.55 (d, 2H).

reactant | (3,5-Dimethyl-4-nitro-phenyl)-(4-trifluoromethyl-benzyl)-carbamic acid tert-butyl ester | 9.5 g | C(C)(C)(C)OC(N(CC1=CC=C(C=C1)C(F)(F)F)C1=CC(=C(C(=C1)C)[N+](=O)[O-])C)=O | C21H23F3N2O4
reactant | acetic acid | 13 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 150 mL | C(C)O | C2H6O
catalyst | zinc | 22 g | [Zn] | Zn
product | (4-Amino-3,5-dimethyl-phenyl)-(4-trifluoromethyl-benzyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CC1=CC=C(C=C1)C(F)(F)F)C1=CC(=C(C(=C1)C)N)C)=O | C21H25F3N2O2
